US08492409B2
(2) Synthesis of ethyl 2-(3,5-dichloropyridin-2-yl)-5-oxopyrazolidine-3-carboxylate
To a 500 mL flask, 300 mL anhydrous ethanol, sodium ethoxide (4.1 g, 61 mmol) and 3,5-dichloro-2-hydrazinylpyridine (10.00 g, 56 mmol) were added. The reaction mixture was heated to reflux for 5 minutes. Diethyl maleate (10.64 g, 61.0 mmol) was added dropwise and heated to reflux for 10 minutes. After being cooled to 65° C., the reaction mixture was neutralized with glacial acetic acid (13 g, 224 mmol) and diluted with 300 mL water. The mixture was cooled down to room temperature and the a precipitate formed. The solid was isolated via filtration, washed with 40% aqueous solution of ethanol (3×50 mL) and dried to give the product (8.00 g) as an orange solid in 47% yield. Melting point: 105-108° C.

reactant | sodium ethoxide | 61 mmol, 4.1 g | [O-]CC.[Na+]
reactant | 3,5-dichloro-2-hydrazinylpyridine | 56 mmol, 10.00 g | ClC=1C(=NC=C(C1)Cl)NN | C5H5Cl2N3
reactant | Diethyl maleate | 61.0 mmol, 10.64 g | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | acetic acid | 224 mmol, 13 g | C(C)(=O)O | C2H4O2
solvent | water | 300 mL | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | ethyl 2-(3,5-dichloropyridin-2-yl)-5-oxopyrazolidine-3-carboxylate | 8.00 g, 47% yield | ClC=1C(=NC=C(C1)Cl)N1NC(CC1C(=O)OCC)=O | C11H11Cl2N3O3
